.SUBCKT SONGLE_SLA_5P_A_TYPE_24V_NC C CL1 NO NC CL2
R1 CL1 CL2 640
S1 C NC CL1 CL2 SW2
S2 C NO CL1 CL2 SW1
.model sw1 VSWITCH voff=0 von=24 ron=0.001 roff=10MEG
.model sw2 VSWITCH voff=24 von=0 ron=0.001 roff=10MEG
.ENDS

